US07220744B2
(c) 2-Hydroxy-5-methylsulfamoyl-benzoic acid methyl ester
To 77 mmol 2-hydroxy-5-methylsulfamoyl-benzoic acid in 300 ml THF was added 85 mmol CDI and the mixture heated at 70° C. for 1 h. 770 mmol methanol was then added and the mixture was heated at 70° C. for 16 h. The mixture was then cooled to room temperature and concentrated in vacuo. The residue was chromatographed on silica gel (eluant: ethyl acetate/heptane/dichloromethane 45:45:10) to afford the title compound. MS (m/e): 244.1 ([M−H]−, 100%)

reactant | 2-hydroxy-5-methylsulfamoyl-benzoic acid | 77 mmol | OC1=C(C(=O)O)C=C(C=C1)S(NC)(=O)=O | C8H9NO5S
reactant | CDI | 85 mmol | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methanol | 770 mmol | CO | CH4O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 2-Hydroxy-5-methylsulfamoyl-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)S(NC)(=O)=O)O)=O | C9H11NO5S
